US08119644B2
3-Amino-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester was treated with methylene iodide and isoamy nitrate using the procedure of step 5 of preparation 5, to afford 3-iodo-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester, MS (M+H)=353.

reactant | 3-Amino-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)N)=O | C14H14N2O2
reactant | methylene iodide | C(I)I | CH2I2
reactant | nitrate | [N+](=O)([O-])[O-]
product | 3-iodo-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)I)=O | C14H12INO2
